US05011989
A mixture obtained by adding 2.64 g of (+)-1-(2-benzyloxyphenyl)ethylamine hydrochloride prepared in Referential Example (3-1) and 0.26 g of 5% Pd-C to 40 ml of methanol was subjected to hydrogenation at room temperature and normal pressure, whereby 256 ml of hydrogen was absorbed. After filtering off the catalyst, the filtrate was concentrated under reduced pressure to give 1.78 g of (+)-1-(2-hydroxyphenyl)ethylamine hydrochloride.

reactant | (+)-1-(2-benzyloxyphenyl)ethylamine hydrochloride | 2.64 g | Cl.C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(C)N
catalyst | Pd-C | 0.26 g | [Pd] | Pd
solvent | methanol | 40 ml | CO | CH4O
product | (+)-1-(2-hydroxyphenyl)ethylamine hydrochloride | 1.78 g | Cl.OC1=C(C=CC=C1)C(C)N | InChI=1S/C8H11NO.ClH/c1-6(9)7-4-2-3-5-8(7)10;/h2-6,10H,9H2,1H3;1H
